US09403846B2
Step 8. Synthesis of rel-(3aR,5S,7aS)-5-(cyclopropylmethyl)-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C70)
Boron trifluoride diethyl etherate (5.4 g, 17.9 mmol) was added drop-wise to a solution of rel-(3aR,5S)-5-(cyclopropylmethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C69) (2.7 g, 14.9 mmol) in toluene (100 mL) at an internal temperature of −72.5° C. The reaction mixture was stirred at −73° C. to −76° C. for 30 minutes, then treated with 2,4-difluoro-1-iodobenzene (98%, 4.3 g, 17.9 mmol) in one portion. While the reaction temperature was maintained below −73° C., n-butyllithium (2.5 M in hexanes, 6.0 mL, 14.9 mmol) was added in a drop-wise manner over 15 minutes. The reaction mixture was stirred at −73° C. to −75° C. for 1.5 hours, then was quenched with saturated aqueous ammonium chloride solution (10 mL) at −74° C. and allowed to warm to room temperature. The resulting mixture was extracted with ethyl acetate (300 mL), and the aqueous layer was extracted with additional ethyl acetate (250 mL and 100 mL); the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatography on silica gel (Gradient: 0% to 10% ethyl acetate in petroleum ether) afforded the product as a yellow oil. Yield: 1.85 g, 6.25 mmol, 42%. LCMS m/z 296 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 7.92 (q, J=8.3 Hz, 1H), 6.88 (dt, J=8.2, 2.4 Hz, 1H), 6.80 (dt, J=10.4, 2.4 Hz, 1H), 6.31 (br s, 1H), 4.11 (dd, J=12.8, 1.6 Hz, 1H), 3.80 (d, J=12.8 Hz, 1H), 3.70 (d, J=7.2 Hz, 1H), 3.61-3.67 (m, 1H), 3.52-3.55 (m, 1H), 3.04-3.09 (m, 1H), 1.94 (dd, J=14.0, 6.8 Hz, 1H), 1.59-1.67 (m, 2H), 1.45 (q, J=15.1 Hz, 1H), 1.25 (quintet, J=6.9 Hz, 1H), 0.74-0.85 (m, 1H), 0.45-0.53 (m, 2H), 0.08-0.13 (m, 2H).

reactant | Boron trifluoride diethyl etherate | 17.9 mmol, 5.4 g | B(F)(F)F.CCOCC
reactant | rel-(3aR,5S)-5-(cyclopropylmethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | 14.9 mmol, 2.7 g | C1(CC1)C[C@H]1C[C@@H]2C(=NOC2)CO1 | C10H15NO2
reactant | 2,4-difluoro-1-iodobenzene | 17.9 mmol, 4.3 g | FC1=C(C=CC(=C1)F)I | C6H3F2I
reactant | n-butyllithium | 14.9 mmol, 2.5 M, 6.0 mL | C(CCC)[Li]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | rel-(3aR,5S,7aS)-5-(cyclopropylmethyl)-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)C[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=C(C=C1)F)F | C16H19F2NO2
